US08957073B2
The mixture of 2-azetidin-3-yl-3-(2-methoxy-phenoxy)-pyrazine hydrochloride (108 mg, 0.37 mmol), HATU (280 mg, 0.74 mmol) and TEA (130 mg, 1.3 mmol) in dry DCM (10 mL) was stirred at RT for 30 min, then 1H-benzoimidazole-2-carboxylic acid was added to the solution. The solution was heated to 80° C. overnight. The mixture was poured into saturated aqueous Na2CO3 and extracted with DCM (50 mL×2). The organic layer was washed with brine, dried over Na2SO4 and concentrated to give the crude compound, which was purified by ISCO silica gel column (10% to 80% EtOAc in petroleum ether) and followed by reverse phase prep. HPLC (10% to 80% water/MeCN) to give (1H-benzoimidazol-2-yl)-{3-[3-(2-methoxy-phenoxy)-pyrazin-2-yl]-azetidin-1-yl}-methanone (40 mg, 0.11 mmol, yield 27%).

reactant | 2-azetidin-3-yl-3-(2-methoxy-phenoxy)-pyrazine hydrochloride | 0.37 mmol, 108 mg | Cl.N1CC(C1)C1=NC=CN=C1OC1=C(C=CC=C1)OC
reactant | HATU | 0.74 mmol, 280 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1H-benzoimidazole-2-carboxylic acid | N1C(=NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water MeCN | O.CC#N
product | (1H-benzoimidazol-2-yl)-{3-[3-(2-methoxy-phenoxy)-pyrazin-2-yl]-azetidin-1-yl}-methanone | 0.11 mmol, 40 mg, yield 27% | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C2=NC=CN=C2OC2=C(C=CC=C2)OC | C22H19N5O3
